Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
rash, malaise
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w/ remote history of memingococcemia who presents with
fever, malaise, weakness, in the context of a rash and joint
pains. Pt works at the airport and was at work on ___ morning
when he reported feeling chills. By noon, he felt to unwell to
keep working, so he went to his car to go home. However, when he
got in his car, he felt to weak to drive home safely so he went
to sleep and slept in his car until 7 AM on ___ morning. He
report waking up three times to urinate during that time and 
felt
weak and had to support himself with the car door in order to
stand. He eventually went home and continued to feel unwell, so
he presented initially to ___.   

At ___, he had fever and was initially tachycardic to 116 
with
BP 109/83. noted to have leukocytosis to 28k. Exam revealed rash
throughout torso and lower extremities which was described as
palpable purpura with tenderness. He was given 2 grams of
ceftriaxone and was transferred to ___. At ___, he continued
to have low grade fevers. He was seen by ID and broad infectious
workup including RPR, HIV and viral hepatitis screen 
recommended.
Antibiotics broadened to Vanc/CTX/doxy. Pt with mild headache
with standing, but no neck stiffness so meningitis thought to be
unlikely, LP was discussed with patient but he declined it. Pt
admitted for further care. 

On arrival to the floor, pt reports improvement since
presentation. In addition to the rash, he reports pain at the
hands, wrists, and ankles with flexion and extension. Pt denies
sick contacts. Most recent travel was to ___ 2 weeks ago and 
to
___ ___ weeks ago. No tick bites or significant time in
the woods. No pets. He has had multiple sexual partners of the
opposite sex in the last month. He reports condom use with all
encounters aside from 5 days ago when he had two separate
partners with whom he did no use condoms. He denies dysuria or
drainage. No prior STI's. 
 
Past Medical History:
Meningococcemia at age ___
 
Social History:
___
Family History:
Mother with history of thyroid cancer s/p radiation and
thyroidectomy. Father and two siblings are healthy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

VS - 100.1 102/56 104 18 97 RA 
GEN - NAD
HEENT - small macular lesions on hard palate, moist MM
NECK - no cervical LAD; supple neck
CV - rrr, no r/m/g
RESP - clear bl
ABD - soft, nt/nd, +bs
EXT - pain with passive motion of wrists R>L, hands and ankles;
swelling of R ankle s/ some warmth
SKIN - multiple papular lesions throughout skin on torso, thigh
with less lesions in distal ___ and ___ few lesions < ___ on
palms and soles all tender to palpation; dark tender macular 
rash
on penis without ulceration
NEURO - alert and oriented x 3, no focal weakness
PSYCH - calm

DISCHARGE PHYSICAL EXAM:

VITALS: 99.4 PO 116 / 69 L Lying 96 18 98 RA 
GENERAL: in NAD 
EXT: effusion over his right knee is improved, non-tender, 
non-warm
SKIN: continued scattered, non-tender lesions on his right lower 
shins, lesions on palms of hand improved

 
Pertinent Results:
LABORATORY RESULTS

___ 12:08AM BLOOD WBC-27.1* RBC-4.07* Hgb-11.6* Hct-34.6* 
MCV-85 MCH-28.5 MCHC-33.5 RDW-13.0 RDWSD-40.0 Plt Ct-94*
___ 07:05AM BLOOD WBC-11.2* RBC-4.29* Hgb-12.1* Hct-36.1* 
MCV-84 MCH-28.2 MCHC-33.5 RDW-13.3 RDWSD-40.8 Plt ___
___ 01:00PM BLOOD Neuts-90* Bands-1 Lymphs-5* Monos-4* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-19.57* 
AbsLymp-1.08* AbsMono-0.86* AbsEos-0.00* AbsBaso-0.00*
___ 12:08AM BLOOD Glucose-86 UreaN-28* Creat-1.2 Na-135 
K-3.9 Cl-96 HCO3-24 AnGap-15
___ 07:05AM BLOOD Glucose-93 UreaN-7 Creat-0.8 Na-141 K-4.0 
Cl-103 HCO3-24 AnGap-14
___ 12:08AM BLOOD ALT-15 AST-22 LD(LDH)-283* AlkPhos-49 
TotBili-0.8
___ 01:00PM BLOOD Calcium-8.1* Phos-2.2* Mg-1.9
___ 12:21AM BLOOD Lactate-2.2*
___ 06:55AM BLOOD Lactate-1.6

CULTURE RESULTS:

___ blood cultures: pending x2
URINE: negative
BLOOD CULTURE: NGTD
RPR: negative
HIV negative
HBSAg negative
HBSAb positive
HBcAb negative
GC/Chlamidya urine: negative
GC/Chlamidya throat: pending

CXR
  
Lungs are clear.  There is mild cardiomegaly.  There is no 
pleural effusion.  No pneumothorax is seen 

 
Brief Hospital Course:
Mr. ___ was initially started on vancomycin, ceftriaxone 
dosed for meningitis, and doxycycline. Additional cultures were 
drawn. On the floor, he dramatically improved on IV antibiotics; 
by the end of HD1 he had defervesced, and he was hemodynamically 
stable throughout. The ceftriaxone dose was decreased, and 
vancomycin was discontinued by the end of HD1. Additional 
history was obtained which revealed multiple unprotected sexual 
encounters in the two weeks prior to admission. A urine 
GC/chlamidya was negative, HIV and hepatitis serologies were 
negative, and a throat swab for GC chlamidya is pending. The 
infectious disease service was consulted. Ultimately, they felt 
that his symptoms were most consistent with disseminated 
meningococcus without meningitis versus disseminated gonococcus. 
As his sepsis, skin lesions, knee effusion, and labs 
dramatically improved on antibiotics, he was discharged to 
finish a 7-day course of cefixime. His knee should improve 
without need for washout; however, if his blood cultures were to 
become positive, he would potentially need a washout. He will 
follow up in two weeks with Atrius infectious disease. He will 
also establish with a new primary care physician.

HOSPITAL COURSE BY PROBLEM

1. Disseminated meningococcus vs gonococcus. 
- cefixime 400 mg BID
- ___ throat GC/chlamidya swab
- ___ outside blood cultures
- f/u with ID within 2 weeks

2. Right knee effusion
- should resolve with supportive care; if blood cultures are 
positive may need washout

3. Skin lesions. D/t disseminated disease; should self-resolve
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  ceFIXime 400 mg oral BID 
RX *cefixime [Suprax] 400 mg 1 capsule(s) by mouth Twice daily 
Disp #*10 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Presumed disseminated gonococcus vs meningococcus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with sepsis from an infection. Ultimately, we 
suspect the infection was due to either disseminated 
meningococcus or gonococcus (a sexually transmitted disease). 
Our cultures have not grown anything, so we are not sure which 
it was; however, we have taken a swab that would let us know one 
way or another. In any event, you are much better, and the same 
antibiotic treats both. Please follow up with infectious disease 
clinic. In any event, you should practice safe sex with a condom 
outside of a monogamous relationship.
 
Followup Instructions:
___